US05549997
39.2 g of perylene-3,4,9,10-tetracarboxylic acid dianhydride, 32.4 g of o-phenylenediamine and 800 ml of α-chloronaphthalene were mixed, and the mixture was reacted at 260° C. for 6 hours. After the reaction product was left to cool, deposited crystals were collected by filtration, and were then repeatedly washed with methanol, followed by heating and drying to obtain 51.1 g of an imidazole perylene compound as a mixture of the compounds of Structural formulas 1 and 2. The product thus obtained was called a synthesized product, whose X-ray diffraction spectrum was as shown in FIG. 3.

reactant | o-phenylenediamine | 32.4 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | α-chloronaphthalene | 800 ml | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
product | imidazole perylene | 51.1 g | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45.N4C=NC=C4 | InChI=1S/C20H12.C3H4N2/c1-5-13-6-2-11-17-18-12-4-8-14-7-3-10-16(20(14)18)15(9-1)19(13)17;1-2-5-3-4-1/h1-12H;1-3H,(H,4,5)
